Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Persistent menorrhagia 
 
Major Surgical or Invasive Procedure:
___: Bilateral Uterine Artery Embolization

 
History of Present Illness:
Ms. ___ is a ___ female with known
uterine fibroids and a chief complaint of significantly enlarged
fibroid uterus and irregular bleeding on Mirena IUD, now 
resolved
s/p removal on ___ but with persistent menorrhagia.  

Upon arrival to the floor, the patient reports crampy abdominal
pain that is well controlled with her PCA. She rates the pain an
___. She denies CP, SOB, HA, LH, lower extremity numbness or
tingling. 

REVIEW OF SYSTEMS:
A 10-point ROS was taken and is negative other than HPI. 
 
Past Medical History:
Uterine fibroids
HTN
HLD
Glucose intolerance (A1c 5.8% on ___
Migraines 
Obesity 
Positive PPD, has refused INH ___
 
Social History:
___
Family History:
HTN (Mother, Sister, Brother)
___ (Sister)
 
Physical Exam:
========================
ADMISSION EXAM:
========================
VITALS: T 97.7 147/88 72 ___ 2L NC 
GENERAL: lying in bed sleeping, arousable, NAD, A/Ox3
HEENT: EOMI, sclera anicteric, MMM
CV: RRR, no m/r/g, 2+ DP and radial pulses, no R CFA bruit
auscultated
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: no tenderness to palpation, +BS, non-distended, no
organomegaly, no rebound or guarding
GU: Foley catheter in place
SKIN: no rashes
NEURO: drowsy, CN II-XII grossly intact, moving all extremities
with purpose
EXTREMITIES: bilateral trace pitting edema to the mid-shin

========================
DISCHARGE EXAM:
========================
Vitals:  99.2 132 / 77 80 17 92%Ra
GENERAL: lying in bed sleeping, arousable, NAD, A/Ox3
HEENT: EOMI, sclera anicteric, MMM
CV: RRR, no m/r/g, 2+ DP pulses, L radial pulse diminished.
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: no tenderness to palpation, +BS, non-distended, no
organomegaly, no rebound or guarding
GU: no foley
SKIN: no rashes
NEURO: drowsy, moving all extremities spontaneously, grip 
strength ___.
EXTREMITIES: bilateral trace pitting edema to the mid-shin
 
Pertinent Results:
==================================
ADMISSION LABS:
==================================
___ 09:30AM BLOOD WBC-7.9 RBC-4.21 Hgb-8.5* Hct-29.1* 
MCV-69* MCH-20.2* MCHC-29.2* RDW-16.5* RDWSD-40.9 Plt ___
___ 09:30AM BLOOD ___
___ 09:30AM BLOOD Creat-0.8

==================================
INTERVAL LABS:
==================================
None

==================================
DISCHARGE LABS:
==================================
___ 07:00AM BLOOD WBC-10.9* RBC-4.32 Hgb-8.9* Hct-29.8* 
MCV-69* MCH-20.6* MCHC-29.9* RDW-16.3* RDWSD-40.1 Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-138 
K-4.3 Cl-101 HCO3-21* AnGap-16

==================================
IMAGING:
==================================
___: Bilateral UAE
FINDINGS:   
1. Bilateral uterine artery supply to large uterine fibroid, 
left much 
greater than right. No arteriovenous shunting, stenosis, 
vesicle, vaginal, or 
ovarian branches noted. 
2. No evidence of ovarian arterial supply to the fibroids. 
3. Post-procedure fibroid staining and near stasis confirming 
successful 
imaging end point. 
  
IMPRESSION:   
-Right common femoral artery access bilateral uterine artery 
particle and 
Gel-Foam slurry embolization to near stasis. 
-Unsuccessful left radial artery access. Postprocedural physical 
examination 
reveals adequate capillary refills and palpatory radial and 
ulnar arteries. 
  
RECOMMENDATION(S): 
-Patient will be admitted for overnight observation and symptom 
control. 
-Follow-up MRI in 3 months. 

==================================
MICROBIOLOGY:
==================================
None
 
Brief Hospital Course:
=======================
 BRIEF SUMMARY 
=======================
Ms. ___ is a ___ year old woman with a history of 
hypertensions, uterine fibroids with irregular bleeding on 
Mirena IUD (IUD removed ___ and persistent menorrhagia. She 
was admitted for a planned bilateral uterine artery embolization 
and transferred to ___ for post-procedure pain management. 
She was discharged on the day after the procedure with adequate 
pain control and after she was able to void and tolerate oral 
intake of food and water.

========================
 PROBLEM-BASED SUMMARY
========================
#Uterine fibroids: 
Patient has history of menorrhagia and uterine fibroids, s/p 
Mirena placement in ___. Her Mirena was removed in ___ in 
the OR due to failure to decrease her bleeding. She underwent 
bilateral uterine artery embolization by Interventional 
Radiology on ___, and afterward was transferred to ___ for 
pain management. Her PCA was discontinued in the morning of 
___, her foley was removed, and she was transitioned to PO pain 
medications. She was discharged after passing a trial of void 
and tolerating adequate PO intake.
 - Pain management: ibuprofen, acetaminophen; will send with a 
few pills of oxycodone for breakthrough pain

========================
 TRANSITIONAL ISSUES:
========================
 - Follow up uterine fibroids as listed above

ATTENDING PHYSICIAN HOSPITAL ___ ADDENDUM

Patient seen at 10:30am

[x] I saw and examined the patient, and discussed the assessment 
& treatment plan with Dr. ___.
[x] I also reviewed the interval history, documentation, 
physical exam, assessment & treatment plan as documented by Dr. 
___ today, and agree, except for the changes below.

Today I have discussed this case and care plan with: [x] 
patient, [ ] family, [x] nurse, [ ] case management, [x] 
PCP/other provider

[x] The patient is safe to discharge today, and I spent >30min 
in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. ammonium lactate 12 % topical BID:PRN 
3. Tretinoin 0.1% Cream 1 Appl TP QHS 
4. norethindrone (contraceptive) 0.35 mg oral DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. Sumatriptan Succinate 100 mg PO 1 TAB PO AT TIME OF WARNING 
SYMPTOMS OR ONSET OF HEADACHE 

 
Discharge Medications:
1.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 200 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*30 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
please only use if unable to control with other medications 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*4 Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  amLODIPine 5 mg PO DAILY  
5.  ammonium lactate 12 % topical BID:PRN  
6.  Ferrous Sulfate 325 mg PO BID  
7.  norethindrone (contraceptive) 0.35 mg oral DAILY  
8.  Sumatriptan Succinate 100 mg PO 1 TAB PO AT TIME OF WARNING 
SYMPTOMS OR ONSET OF HEADACHE  
9.  Tretinoin 0.1% Cream 1 Appl TP QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=======================
PRIMARY DIAGNOSIS:
=======================
Leiomyomata uteri, s/p bilateral uterine artery embolization

=======================
SECONDARY DIAGNSOSES:
=======================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

================================
 WHY WAS I IN THE HOSPITAL?
================================
 - You came to the hospital for a planned uterine artery 
embolization for management of your uterine fibroids. 

================================
 WHAT HAPPENED IN THE HOSPITAL?
================================
 - You had bilateral embolization of your uterine arteries to 
treat your uterine fibroids.
 - You were treated after the procedure for you pain with a 
combination of opioid medications, non-steroidal 
anti-inflammatories, and acetaminophen. 

================================
 WHAT SHOULD I DO WHEN I GO HOME?
================================
 - Take your medications are prescribed.
 - Please follow up with Gynecologist and Primary Care 
Physician.
 - Please come back to the hospital if you are unable to urinate 
or have a large volume of vaginal bleeding.

We wish you the best!
 -Your Care Team at ___

 
Followup Instructions:
___